US07470679B2
tert-Butyl 4-(1-hydroxy-3-methoxy-3-oxo-1-(2-pivalamidopyridin-3-yl)propan-2-yl)piperidine-1-carboxylate
A solution of diisopropylamine (6.0 mL, 43 mmol) in tetrahydrofuran (200 mL) was cooled to −78° C. A 2.5M solution of n-butyllithium in hexanes (17.0 mL, 43 mmol) was added to the mixture drop-wise. Mixture was held at −78° C. with stirring for 20 minutes. A solution of tert-butyl 4-(2-methoxy-2-oxoethyl)piperidine-1-carboxylate (9.3 g, 36 mmol) in tetrahydrofuran (35 mL) was added to the mixture drop-wise. Mixture was held at −78° C. for 1.5 hours. In a separate flask, 60% sodium hydride in mineral oil (1.57 g, 39 mmol) was washed in hexanes and then suspended in tetrahydrofuran (70 mL). Mixture was cooled to 0° C. A solution of N-(3-formylpyridin-2-yl)pivalamide (6.74 g, 33 mmol) in tetrahydrofuran (20 mL) was added to the mixture drop-wise. Reaction was held at 0° C. with stirring for 2 hours. Mixture was warmed to room temperature and then added to the butyllithium containing solution drop-wise. Reaction mixture was held at −78° C. with stirring for 2 hours. Mixture was allowed to slowly warm to room temperature. Mixture stirred at room temperature for 14 hours. Reaction was quenched with aqueous ammonium chloride. The mixture was extracted with ethyl acetate (2×100 mL). Organic extracts were combined, dried (magnesium sulfate), filtered and concentrated in vacuo. Silica gel chromatography afforded the title compound as white foam in 93% yield. (M+H)+=464.2.

reactant | diisopropylamine | 43 mmol, 6.0 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | tert-butyl 4-(2-methoxy-2-oxoethyl)piperidine-1-carboxylate | 36 mmol, 9.3 g | COC(CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C13H23NO4
reactant | sodium hydride | [H-].[Na+]
reactant | N-(3-formylpyridin-2-yl)pivalamide | 33 mmol, 6.74 g | C(=O)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C11H14N2O2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-(1-hydroxy-3-methoxy-3-oxo-1-(2-pivalamidopyridin-3-yl)propan-2-yl)piperidine-1-carboxylate | 93% yield | OC(C(C(=O)OC)C1CCN(CC1)C(=O)OC(C)(C)C)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C24H37N3O6
